US07338973B2
8-bromo-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene
Following the procedure described in Example 4, using chroman-4-one (3.21 g, 21.7 mmoL) and 4-bromo-phenylhydrazine HCl salt (5.33 g, 23.8 mmoL) as the starting material, the title compound was prepared as a brown solid.

reactant | chroman-4-one | 3.21 g | O1CCC(C2=CC=CC=C12)=O | C9H8O2
reactant | 4-bromo-phenylhydrazine HCl salt | 5.33 g | Cl.BrC1=CC=C(C=C1)NN
product | 8-bromo-6,11-dihydro-5-oxa-11-aza-benzo[a]fluorene | BrC=1C=C2C=3COC4=C(C3NC2=CC1)C=CC=C4 | C15H10BrNO
